US07125880B1
[2,5-Dimethyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridin-7-yl]-(1-ethyl-propyl)-amine
A mixture of N4-(1-ethyl-propyl)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3,4-triamine (250 mg, 0.77 mmol), trimethyl orthoacetate (0.184 g, 1.532 mmol), p-toluenesulfonic acid monohydrate (0.01 g) in toluene was heated at reflux using Dean-Stark apparatus for 3 hours. The mixture was quenched with water, brine, extracted with ethyl acetate. The organic layer was separated, dried (MgSO4) and concentrated to dryness. After purification, the title compound was obtained as a white crystal, mp 101–103° C. Anal. For C22H30N4 calc. C, 75.39; H, 8.63; N, 15.98; found, C, 75.44; H, 8.95; N, 15.95.

reactant | N4-(1-ethyl-propyl)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3,4-triamine | 0.77 mmol, 250 mg | C(C)C(CC)NC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)N | C20H30N4
reactant | trimethyl orthoacetate | 1.532 mmol, 0.184 g | C(C)(OC)(OC)OC | C5H12O3
reactant | p-toluenesulfonic acid monohydrate | 0.01 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [2,5-Dimethyl-3-(2,4,6-trimethyl-phenyl)-3H-imidazo[4,5-b]pyridin-7-yl]-(1-ethyl-propyl)-amine | CC1=NC=2C(=NC(=CC2NC(CC)CC)C)N1C1=C(C=C(C=C1C)C)C | C22H30N4
